US08058285B2
3.0 g (8.7 mmol) 3-amino-6-(3,4-dimethoxyphenyl)-4-methyl-thieno[2,3-b]pyridine-2-carboxamide is suspended in 100 ml absolute dioxane. Then, 1.1 ml (8.7 mmol) chloroformic acid trichloromethylester (diphosgene) is added and refluxed for 3 h. Following cooling, the precipitate is sucked off and then suspended in 50 ml water. The suspension is adjusted to pH 8 using concentrated ammonia solution and the precipitate is sucked off, washed with some water, suck dried and in vacuo at 50° C. 3.08 g (96%) 7-(3,4-dimethoxyphenyl)-9-methyl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine-2,4-dione is obtained.

reactant | 3-amino-6-(3,4-dimethoxyphenyl)-4-methyl-thieno[2,3-b]pyridine-2-carboxamide | 8.7 mmol, 3.0 g | NC1=C(SC2=NC(=CC(=C21)C)C2=CC(=C(C=C2)OC)OC)C(=O)N | C17H17N3O3S
reactant | chloroformic acid trichloromethylester | 8.7 mmol, 1.1 ml | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | ammonia | N | H3N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 7-(3,4-dimethoxyphenyl)-9-methyl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine-2,4-dione | 3.08 g, 96% | COC=1C=C(C=CC1OC)C=1C=C(C2=C(SC3=C2NC(NC3=O)=O)N1)C | C18H15N3O4S
